US06855710B2
e) (Z)-3-[1-(4-tert.butoxycarbonylaminomethyl-phenylamino)-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone
Prepared analogously to Example 2c from 3-[1-chloro-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone, 4-tert.butoxycarbonylaminomethyl-aniline and triethylamine in dichloromethane.

reactant | 3-[1-chloro-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone | ClC(C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=C2C(N(C1=CC=C(C=C21)[N+](=O)[O-])C(C)=O)=O | C26H16ClN3O6
reactant | 4-tert.butoxycarbonylaminomethyl-aniline | C(C)(C)(C)OC(=O)NCC1=CC=C(N)C=C1 | C12H18N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-3-[1-(4-tert.butoxycarbonylaminomethyl-phenylamino)-1-(4-phthalimidomethyl-phenyl)-methylidene]-1-acetyl-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=C\2/C(N(C1=CC=C(C=C21)[N+](=O)[O-])C(C)=O)=O | C38H33N5O8
